US07842694B2
Methyl 3-({(1S)-1-[(methyloxy)methyl]propyl}oxy)-5-[(phenylmethyl)oxy]benzoate
A stirred solution of methyl 3-hydroxy-5-{[phenylmethyl]oxy}benzoate (7.5 g, 29 mmol), (R)-1-methoxy-butan-2-ol (3.76 g, 36.25 mmol) and triphenylphosphine (9.5 g, 36.25 mmol) in dry THF (75 mL) was cooled in an ice-bath and a solution of 40% DEAD in toluene (15.8 mL, 36.25 mmol) was added dropwise over 30 minutes. The reaction mixture was allowed to warm slowly to 10° C. and stirred for 16 hours. The THF was evaporated and the residue was dissolved in 30% ethyl acetate in isohexane and cooled in ice. The resultant precipitate was removed by filtration and washed with 10% ethyl acetate in isohexane. The filtrate was evaporated and purified by column chromatography, eluting with 10% ethyl acetate in isohexane, to give the title compound as a colourless oil (6.85 g).

reactant | methyl 3-hydroxy-5-{[phenylmethyl]oxy}benzoate | 29 mmol, 7.5 g | OC=1C=C(C(=O)OC)C=C(C1)OCC1=CC=CC=C1 | C15H14O4
reactant | (R)-1-methoxy-butan-2-ol | 36.25 mmol, 3.76 g | COC[C@@H](CC)O | C5H12O2
reactant | triphenylphosphine | 36.25 mmol, 9.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | toluene | 36.25 mmol, 15.8 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | Methyl 3-({(1S)-1-[(methyloxy)methyl]propyl}oxy)-5-[(phenylmethyl)oxy]benzoate | 6.85 g | COC[C@H](CC)OC=1C=C(C(=O)OC)C=C(C1)OCC1=CC=CC=C1 | C20H24O5
